US05972965
To a solution of 5-t-butyldiphenylsilyloxy-1-tetralone (2.9 g) and (R)-5,5-diphenyl-2-methyl-3,4-propano-1,3,2-oxazaborolidine (2.3 g) in THF (5 ml) was added borane tetrahydrofuran complex (7.1 ml, 1 M solution in THF) at -18° C. After being stirred for 30 minutes, the reaction was quenched with 1N HCl solution. The mixture was poured into a mixture of ethyl acetate and water. The organic layer was washed with 1N-HCl solution, sat. NaHCO3 and brine, dried over MgSO4, and evaporated in vacuo. The residue was purified by chromatography on silica gel to afford (1S)-1-hydroxy-5-t-butyldiphenylsilyloxy-1,2,3,4-tetrahydronaphthalene (3.2 g). MS (m/z): 401 (M+ -1) NMR (CDCl3, δ): 1.10 (9H, s), 1.8-2.2 (4H, m), 2.6-3.1 (2H, m), 4.79 (1H, t, J=4.8 Hz), 6.30 (1H, d, J=8 Hz), 6.77 (1H, t, J=8 Hz), 6.97 (1H, d, J=8 Hz), 7.3-7.9 (10H, m) HPLC; chiralcel AD, 2% isopropanol/hexane, 20.3 ml/min

reactant | 5-t-butyldiphenylsilyloxy-1-tetralone | 2.9 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=C2CCCC(C2=CC=C1)=O | C26H28O2Si
reactant | (R)-5,5-diphenyl-2-methyl-3,4-propano-1,3,2-oxazaborolidine | 2.3 g | C1(=CC=CC=C1)C1([C@@H]2N(B(O1)C)CCC2)C2=CC=CC=C2 | C18H20BNO
reactant | borane tetrahydrofuran | 1 M, 7.1 ml | O1CCCC1.B
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (1S)-1-hydroxy-5-t-butyldiphenylsilyloxy-1,2,3,4-tetrahydronaphthalene | 3.2 g | O[C@H]1CCCC2=C(C=CC=C12)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C26H30O2Si
